US05506267
6,7-dihydroxy-2-methyl-4-thiaheptanoic acid t-butyl ester
To thioglycerol (0.835 mI), t-butyl methacrylate (10 ml) and triethylamine (1 ml) were added, followed by stirring at 60° C. for 48 hours. After cooling and addition of water, the reaction mixture was extracted with chloroform. The extract was washed with a 5% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off, to yield the title compound (2.11 g, yield 84%) as a colorless oily substance.

reactant | thioglycerol | SCC(O)CO | C3H8O2S
reactant | t-butyl methacrylate | 10 ml | C(C(=C)C)(=O)OC(C)(C)C | C8H14O2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 6,7-dihydroxy-2-methyl-4-thiaheptanoic acid t-butyl ester | 2.11 g, yield 84% | C(C)(C)(C)OC(C(CSCC(CO)O)C)=O | C11H22O4S
